US07598397B2
Synthesis of 2-Fluoro-6-(naphthalen-2-yloxy)-benzonitrile, I-189.
To a 20 mL vial containing a magnetic stir bar was added sodium hydride (103.7 mg, 4.32 mmol, 60% in mineral oil) followed by anhydrous DMF (2 mL) resulting in gas evolution. To this stirring reaction mixture was added 2-naphthol (623 mg, 4.32 mmol) as a solid in small portions over 5 min. The mixture was stirred at room temperature for 3 min and then 2,6-difluorobenzonitrile (601 mg, 4.32 mmol) in anhydrous DMF was added in one portion. The reaction mixture was heated in an oil bath at 100° C. for a total of 2 h and allowed to cool to room temperature. The reaction mixture was diluted with water (15 mL) and the resulting mixture was extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water (3×20 mL), dried (Na2SO4), filtered and concentrated to give I-189 as brown solid (1.216 g) of sufficient purity (contains 2-naphthol) to be used in the subsequent step. 1H NMR.

reactant | sodium hydride | 4.32 mmol, 103.7 mg | [H-].[Na+]
reactant | 2-naphthol | 4.32 mmol, 623 mg | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 2,6-difluorobenzonitrile | 4.32 mmol, 601 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-Fluoro-6-(naphthalen-2-yloxy)-benzonitrile | 1.216 g | FC1=C(C#N)C(=CC=C1)OC1=CC2=CC=CC=C2C=C1 | C17H10FNO
